************************************************************************
* auCdl Netlist:
* 
* Library Name:  ETROC0A_Analog
* Top Cell Name: PreAmpBias
* View Name:     schematic
* Netlisted on:  Apr 21 22:07:49 2022
************************************************************************

*.INCLUDE  /asic/cad/Library/tsmc/TSMC65_CERN_2017_DL20/V1.7A_1/1p9m6x1z1u/tsmcN65/../PVS_QRC/lvs/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ETROC0A_Analog
* Cell Name:    PreAmpBias
* View Name:    schematic
************************************************************************

.SUBCKT PreAmpBias In1 Ip1 vdd vss
*.PININFO In1:O Ip1:O vdd:B vss:B
MM8 vss a1 vss vss nch_dnw l=300n w=2u m=1
MM7 vss a1 vss vss nch_dnw l=300n w=2u m=1
MM6 b1 b1 a1 vss nch_dnw l=120.0n w=2u m=8
MM5 In1 a1 vss vss nch_dnw l=300n w=2u m=4
MM3 a1 a1 vss vss nch_dnw l=300n w=2u m=4
MM0 b1 a1 bulk1 bulk1 nch_dnw l=300n w=2u m=8
XR0 bulk1 vss rppolywo l=13.5u w=2.6u m=2
DD0 vss vdd dnwpsub area=1.09005e-10 pj=0.0021803 m=1
DD2 vss vdd pwdnw area=5.49614e-11 pj=0.0109923 m=1
DD1 bulk1 vdd pwdnw area=2.57597e-11 pj=0.00515196 m=1
MM10 vdd b1 vdd vdd pch l=300n w=2u m=1
MM9 vdd b1 vdd vdd pch l=300n w=2u m=1
MM4 Ip1 b1 vdd vdd pch l=300n w=2u m=4
MM2 a1 b1 vdd vdd pch l=300n w=2u m=4
MM1 b1 b1 vdd vdd pch l=300n w=2u m=4
.ENDS

