************************************************************************
* auCdl Netlist:
* 
* Library Name:  ETROC1_ESD_elongated
* Top Cell Name: SF_1V2_OVT_NOB2B
* View Name:     schematic
* Netlisted on:  Apr 21 22:12:06 2022
************************************************************************

*.INCLUDE  /asic/cad/Library/tsmc/TSMC65_CERN_2017_DL20/V1.7A_1/1p9m6x1z1u/tsmcN65/../PVS_QRC/lvs/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ETROC1_ESD_elongated
* Cell Name:    SF_1V2_OVT_NOB2B
* View Name:    schematic
************************************************************************

.SUBCKT SF_1V2_OVT_NOB2B IO VSSPST
*.PININFO IO:B VSSPST:B
DD0 VSSPST IO ndio area=1.6524e-11 pj=4e-05 m=1
DD1 net13 VSSPST ndio area=5.45292e-11 pj=4e-05 m=1
DD2 IO N0 pdio area=1.6524e-11 pj=4e-05 m=1
DD4 N0 N1 pdio area=5.20506e-11 pj=4e-05 m=1
DD5 N1 N2 pdio area=2.60253e-11 pj=4e-05 m=1
DD6 N2 VSSPST pdio area=2.60253e-11 pj=4e-05 m=1
.ENDS

