************************************************************************
* auCdl Netlist:
* 
* Library Name:  ETROC1_HsLib
* Top Cell Name: TIEH_LVT_ELT
* View Name:     schematic
* Netlisted on:  Jun 16 18:23:21 2022
************************************************************************

.INCLUDE  /usr/local/TSMCPDK/TSMC65/V1.7A_1/1p9m6x1z1u/tsmcN65/../PVS_QRC/lvs/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ETROC1_HsLib
* Cell Name:    TIEH_LVT_ELT
* View Name:    schematic
************************************************************************

.SUBCKT TIEH_LVT_ELT VDD VSS ZN
*.PININFO ZN:O VDD:B VSS:B
MM0_ELT net5 net5 VSS VSS nch_lvt l=60n w=1.42u m=1
MM1_ELT ZN net5 VDD VDD pch_lvt l=60n w=3.74u m=1
.ENDS

